US04009208
94. N,N'-Pentamethylenebis(4-trifluoromethoxybenzamide)
m.p. 154°-155° C., 13.8 g., was prepared as in Example 1 using 24.6 g. of 4-trifluoromethoxybenzoyl chloride in 200 ml. of ethylene dichloride, 5.1 g. of 1,5-pentanediamine, 60 ml. of 10% aqueous potassium hydroxide solution, 300 ml. ethylene dichloride and recrystallization from acetonitrile using decolorizing charcoal.

reactant | 4-trifluoromethoxybenzoyl chloride | FC(OC1=CC=C(C(=O)Cl)C=C1)(F)F | C8H4ClF3O2
reactant | 1,5-pentanediamine | C(CCCCN)N | C5H14N2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | N,N'-Pentamethylenebis(4-trifluoromethoxybenzamide) | FC(OC1=CC=C(C(=O)NCCCCCNC(C2=CC=C(C=C2)OC(F)(F)F)=O)C=C1)(F)F | C21H20F6N2O4
